US06875765B2
2-(2-Triisopropylsilanyloxy-naphthalen-1-yl)-ethanol (1.0 g, 2.91 mmol) was mixed with (S)-3-(2-hydroxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester (1.13 g, 2.91 mmol), diethylazodicarboxylate (0.92 mL, 5.8 mmol), and triphenyl phosphine (1.52 g, 5.82 mmol) in THF (18.6 mL) at room temperature for 16 h. The reaction mixture was concentrated onto SiO2 (˜3 g) and then was chromatographed over SiO2 with 20% EtOAc/hexane to give N-methoxy-N-methyl-3-{2-[2-(2-triisopropylsilanyloxy-naphthalen-1-yl)-ethoxy]-benzenesulfonylamino}-succinamic acid tert-butyl ester (1.45 g, 2.03 mmol) as an oil in 69% yield. MS (APCI) m/z 715.4 (M+1).

reactant | 2-(2-Triisopropylsilanyloxy-naphthalen-1-yl)-ethanol | 2.91 mmol, 1.0 g | C(C)(C)[Si](OC1=C(C2=CC=CC=C2C=C1)CCO)(C(C)C)C(C)C | C21H32O2Si
reactant | (S)-3-(2-hydroxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 2.91 mmol, 1.13 g | C(C)(C)(C)OC(C[C@@H](C(=O)N(C)OC)NS(=O)(=O)C1=C(C=CC=C1)O)=O | C16H24N2O7S
reactant | diethylazodicarboxylate | 5.8 mmol, 0.92 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenyl phosphine | 5.82 mmol, 1.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 18.6 mL | C1CCOC1 | C4H8O
product | N-methoxy-N-methyl-3-{2-[2-(2-triisopropylsilanyloxy-naphthalen-1-yl)-ethoxy]-benzenesulfonylamino}-succinamic acid tert-butyl ester | 2.03 mmol, 1.45 g, 69% yield | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=CC=C1)OCCC1=C(C=CC2=CC=CC=C12)O[Si](C(C)C)(C(C)C)C(C)C)=O | C37H54N2O8SSi
